US06350759B1
1-tert-Butoxy-4-nitrobenzene
43.79 mmol of N-N-dimethylformamide di-tert-butyl acetal are added, at ambient temperature, to a solution of 10.78 mmol (1.5 g) of 4-nitrophenol in 10 ml of toluene. The reaction mixture is heated at reflux, with vigorous stirring, for 5 hours. The reaction mixture is diluted with ethyl acetate and then washed with water, with saturated aqueous sodium bicarbonate solution and then with 10% aqueous sodium chloride solution. The expected product is obtained by drying the organic phase and then concentrating.

reactant | 4-nitrophenol | 10.78 mmol, 1.5 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-tert-Butoxy-4-nitrobenzene | C(C)(C)(C)OC1=CC=C(C=C1)[N+](=O)[O-] | C10H13NO3
